US07393858B2
4-Hydroxy-2-oxa-8-aza-spiro[4.5]decane-8-carboxylic acid benzyl ester
Diethyl azodicarboxylate (1.4 g, 8.1 mmol) was added to a solution of 4-(1,2-dihydroxyethyl)-4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester (Description 3; 2 g, 6.5 mmol) and triphenylphosphine (2.4 g, 9.1 mmol) in tetrahydrofuran (40 ml). The reaction was stirred at room temperature for 2 hours then the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica, eluting with 1, 2 and 4% methanol/dichloromethane, to give the title compound (1.43 g, 76%).

reactant | Diethyl azodicarboxylate | 8.1 mmol, 1.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(1,2-dihydroxyethyl)-4-hydroxymethyl-piperidine-1-carboxylic acid benzyl ester | 6.5 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(CO)C(CO)O | C16H23NO5
reactant | triphenylphosphine | 9.1 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-Hydroxy-2-oxa-8-aza-spiro[4.5]decane-8-carboxylic acid benzyl ester | 1.43 g, 76% | C(C1=CC=CC=C1)OC(=O)N1CCC2(C(COC2)O)CC1 | C16H21NO4
